US05436247
To a mixture of 2-amino-4,5,3',4'-tetramethoxybenzophenone (453 mg), 6-(1-imidazolyl)-3-oxohexanoic acid ethyl ester (320 mg) and acetic acid (5 ml), concentrated sulfuric acid (0.03 ml) was added, followed by stirring at 100° C. for 2 hours. After the reaction mixture was concentrated under reduced pressure, the residue was poured over water, alkalinized with 2N sodium hydroxide and then extracted with chloroform. The chloroform layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residual oily substance was subjected to silica gel column chromatography and eluted with chloroform-methanol (50:1, v/v) to yield 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[3-(1-imidazolyl)propyl]quinoline-3-carboxylic acid ethyl ester (310.0 mg, 43%), which was then recrystallized from ethyl acetate-hexane to yield a colorless prismatic crystal having a melting point of 164° to 165° C.

reactant | 2-amino-4,5,3',4'-tetramethoxybenzophenone | 453 mg | NC1=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=C(C(=C1)OC)OC | C17H19NO5
reactant | 6-(1-imidazolyl)-3-oxohexanoic acid ethyl ester | 320 mg | C(C)OC(CC(CCCN1C=NC=C1)=O)=O | C11H16N2O3
reactant | sulfuric acid | 0.03 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-[3-(1-imidazolyl)propyl]quinoline-3-carboxylic acid ethyl ester | 310.0 mg, 43% | C(C)OC(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CCCN1C=NC=C1 | C28H31N3O6
